US07713993B2
Synthesis of 3-(4-fluorophenyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-2-carboxylic acid
A 2 N sodium hydroxide solution (1 mL) was added to a solution of methyl 3-(4-fluorophenyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-2-carboxylate (172 mg) in methanol (4 mL), and the reaction solution was heated under reflux for nine hours. The reaction solution was left to cool to room temperature, and 2 N hydrochloric acid (1 mL) was added to the reaction solution. The solid precipitated in the reaction solution was collected by filtration and washed with diethyl ether to obtain 167 mg of the title compound. The property value of the compound is as follows.

reactant | sodium hydroxide | 2 N, 1 mL | [OH-].[Na+]
reactant | methyl 3-(4-fluorophenyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-2-carboxylate | 172 mg | FC1=CC=C(C=C1)C1=C(N=C/2N1CCC\C2=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C(=O)OC | C27H25FN4O3
reactant | hydrochloric acid | 2 N, 1 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | 3-(4-fluorophenyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-2-carboxylic acid | 167 mg | FC1=CC=C(C=C1)C1=C(N=C/2N1CCC\C2=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C(=O)O | C26H23FN4O3
